US04992090
In a pressurised reactor, 7.0 g of 5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-one are dissolved in a mixture of 100 ml of tetrahydrofuran and 27 g of liquid ammonia. 1.4 g of a moist sulfided 5% platinum/carbon catalyst are added to this mixture. The reactor is filled with hydrogen gas up to a pressure of 100 bar and heated to from +175° C. to +180° C. When the hydrogenation has ceased, the catalyst is filtered off, the filtrate is concentrated and the residue distilled in a bulb tube, yielding 5.4 g of 4-amino-5,6-dihydro-5,5-dimethyl-4H-cyclopenta-[b]thiophene having a melting point of +80° C. at 0.08 mbar.

reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | 5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-one | 7.0 g | CC1(C(C2=C(SC=C2)C1)=O)C | C9H10OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | platinum/carbon | [Pt] | Pt
product | 4-amino-5,6-dihydro-5,5-dimethyl-4H-cyclopenta-[b]thiophene | 5.4 g | NC1C(CC=2SC=CC21)(C)C | C9H13NS
